US07056918B2
1,3-Diethyl-5-(5-pyridin-3-yl-2-m-tolyl-1H-pyrrol-3-yl)-1,3-dihydro-benzoimidazol-2-one
A solution of 2-(1,3-diethyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-4-pyridin-3-yl-1-m-tolyl-butane-1,4-dione (600 mg, 1.13 mmol) and ammonium acetate (871 mg, 11.3 mmol) in acetic acid (3.77 mL) was heated at 110° C. for 4 hours. The reaction was then poured over a mixture of ice and NH4OH and stirred for 5 minutes. The aqueous mixture was extracted with EtOAc (3×10 mL). The organics were combined, washed with brine, dried over sodium sulfate, and concentrated in vacuo to give a orange oil. The oil was purified by flash chromatography using a gradient of Et2O to 50% EtOAc/Et2O, affording 30 mg of the title compound. MS (M+1)=423.2.

reactant | 2-(1,3-diethyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-4-pyridin-3-yl-1-m-tolyl-butane-1,4-dione | 1.13 mmol, 600 mg | C(C)N1C(N(C2=C1C=CC(=C2)C(C(=O)C=2C=C(C=CC2)C)CC(=O)C=2C=NC=CC2)CC)=O | C27H27N3O3
reactant | ammonium acetate | 11.3 mmol, 871 mg | C(C)(=O)[O-].[NH4+]
reactant | NH4OH | [NH4+].[OH-]
solvent | acetic acid | 3.77 mL | C(C)(=O)O | C2H4O2
product | 1,3-Diethyl-5-(5-pyridin-3-yl-2-m-tolyl-1H-pyrrol-3-yl)-1,3-dihydro-benzoimidazol-2-one | 30 mg | C(C)N1C(N(C2=C1C=CC(=C2)C2=C(NC(=C2)C=2C=NC=CC2)C=2C=C(C=CC2)C)CC)=O | C27H26N4O
